US05700805
1-Amino-3-(4-chloro-2-fluoro-5-methoxyiminomethylphenyl)-2-oxo-4-thiono-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (Compound 2.05)
3.4 g of Lawesson's reagent were added to a solution of 1-amino-3-(4-chloro-2-fluoro-5-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (3.8 g) in 100 ml of toluene. After refluxing for 12 hours, the solvent was removed and the crude product obtained was purified by chromatography. Yield: 2.2 g; m.p.: 172°-174° C.

reactant | Lawesson's reagent | 3.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 1-amino-3-(4-chloro-2-fluoro-5-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 3.8 g | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)C=NOC)Cl)F)=O | C13H9ClF4N4O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Amino-3-(4-chloro-2-fluoro-5-methoxyiminomethylphenyl)-2-oxo-4-thiono-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | NN1C(N(C(C=C1C(F)(F)F)=S)C1=C(C=C(C(=C1)C=NOC)Cl)F)=O | C13H9ClF4N4O2S
